US05994563
2-(3-Phenylpropyl)thio-5-nitrobenzaldehyde
To a reaction mixture of DMF (40 mL), potassium hydroxide (1.45 g, 25.9 mmol), and 3-phenylpropyl mercaptan (3.28 g, 21.6 mmol), was added 2-chloro-5-nitrobenzaldehyde (4.00 g, 21.6 mmol). The resulting mixture was heated at 100° C. for 45 minutes. The mixture was cooled, poured onto ice-water (350 mL) and allowed to stand at room temperature for 48 hours. A yellow semi-solid which formed was collected and dissolved in ethyl acetate (100 mL), dried over Na2SO4, and filtered. The solvent removed by evaporation to give a dark yellow gum, 6.71 g.1H NMR (CDCl3): d, 10.27 (s,1H,CHO). MS (DCl): 302 (MH+). The crude product was carried on without further purification in example 34. C16H15NO3S.

reactant | potassium hydroxide | 25.9 mmol, 1.45 g | [OH-].[K+]
reactant | 3-phenylpropyl mercaptan | 21.6 mmol, 3.28 g | C1(=CC=CC=C1)CCCS | C9H12S
reactant | 2-chloro-5-nitrobenzaldehyde | 21.6 mmol, 4.00 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(3-Phenylpropyl)thio-5-nitrobenzaldehyde | C1(=CC=CC=C1)CCCSC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C16H15NO3S
